US08729074B2
N′-(2-Chloro-5-(7-(3-pyridinyl)imidazo[1,2-a]pyridin-3-yl)-3-pyridinyl)-N,N-dimethylsulfamide
To a 5 mL microwave tube was added N-(5-(7-bromoimidazo[1,2-a]pyridin-3-yl)-2-chloropyridin-3-yl)dimethylaminosulfonamide (0.107 g, 0.248 mmol), 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.061 g, 0.298 mmol), 1,1′-bis(diphenylphosphino)ferrocene]dichloride palladium(II) (0.018 g, 0.025 mmol), sodium carbonate (0.311 mL, 0.621 mmol), and dioxane (3 mL). The resulting mixture was sealed and heated in a microwave at 110° C. for 20 min. Solvent was removed and the residue was partitioned between pH 7-buffer (1M TRIS-HCL) and DCM. The aqueous layer was extracted with DCM (2×15 mL). The combined organic layers were dried over MgSO4 and concentrated. The crude material was purified using SiO2 chromatography (Teledyne Isco RediSep®, P/N 68-2203-340, 40 g SiO2, DCM:MeOH=97%:3% Flow=40 mL/min) to afford the desired product as light brown solid (55.0 mg). MS (EI, pos.) calcd for C19H17ClN6O2S: 428.1; found: 428.9.

reactant | N-(5-(7-bromoimidazo[1,2-a]pyridin-3-yl)-2-chloropyridin-3-yl)dimethylaminosulfonamide | 0.248 mmol, 0.107 g | BrC1=CC=2N(C=C1)C(=CN2)C=2C=C(C(=NC2)Cl)NS(=O)(=O)N(C)C | C14H13BrClN5O2S
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.298 mmol, 0.061 g | CC1(OB(OC1(C)C)C=1C=NC=CC1)C | C11H16BNO2
reactant | sodium carbonate | 0.621 mmol, 0.311 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N′-(2-Chloro-5-(7-(3-pyridinyl)imidazo[1,2-a]pyridin-3-yl)-3-pyridinyl)-N,N-dimethylsulfamide | 55.0 mg | ClC1=NC=C(C=C1NS(=O)(=O)N(C)C)C1=CN=C2N1C=CC(=C2)C=2C=NC=CC2 | C19H17ClN6O2S
